US05556853
In a mixture of dioxanes (10 ml) and water (5 ml), o-fluoro-L-phenylalanine (1.00 g, manufactured by Wako Pure Chemical Industries, Ltd.) was dissolved. To the solution were added, while stirring under ice-cooling conditions, a 1N aqueous solution of sodium hydroxide (5.46 ml) and di-tert-butyl dicarbonate (1.38 ml), followed by stirring for one hour at room temperature. The reaction mixture was concentrated, then the pH was adjusted to 2.5, followed by extraction with ethyl acetate (100 ml ×3). The ethyl acetate layer was washed with water and a saturated saline, dried over anhydrous sodium sulfate. After concentration, the concentrate was crystallized from ethyl acetate--petroleum ether to yield N-Boc-o-fluoro-L-phenylalanine (1.32 g) as colorless crystals (yield 85%). A portion (1.20 g) of this product and N-Z-1,4-diaminobutane (847 mg) were subjected to condensation in substantially the same manner as in Example 5 to yield N-(Boc-o-fluoro-L-phenylalanyl)-N'-1,4-diaminobutane (1.77 g) as a white powder (yield 95%). After Boc group elimination with TFA, the product was condensed with (2S,3S)-ethyl hydrogen trans-epoxyxuccinate (522 mg) as obtained in Reference Example 8 to yield the title compound (compound 36; 1.39 g) as a white powder (yield 81%).

reactant | o-fluoro-L-phenylalanine | 1.00 g | FC1=C(C[C@H](N)C(=O)O)C=CC=C1 | C9H10FNO2
reactant | sodium hydroxide | 5.46 ml | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 1.38 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 5 ml | O | H2O
product | N-Boc-o-fluoro-L-phenylalanine | 1.32 g, yield 85% | C(=O)(OC(C)(C)C)N[C@@H](CC1=C(C=CC=C1)F)C(=O)O | C14H18FNO4
